US05747000
a) 10-(4,4-Dimethyl-3-oxa-pentyl)-1,4,7-tris-(carboxymethyl)-1,4,7,10-tetraazacyclododecane
5 g (14.43 mmol) of 1,4,7-tris-(carboxymethyl)-1,4,7, 10-tetraazacyclododecane is stirred in 75 ml of dimethylformamide for 18 hours with 3.14 g (17.35 mmol) of (2-bromoethyl)-tert-butyl ether and 6.50 g of potassium carbonate at 95° C. It is concentrated by evaporation in a vacuum and the residue is dissolved in 100 ml of water, the pH is adjusted to 2 by adding 12 N hydrochloric acid and the solution is put on a column of 320 ml of cation exchanger IR-120 (H+ form). It is eluted with 2 l of water, which is discarded, then with 2 l of 0.5 N ammonia solution. This solution is concentrated by evaporation in a vacuum, the residue is dissolved in 100 ml of water. With stirring, enough cation exchanger IR-120 is added in portions up to pH 3.5. The solution is filtered and freeze-dried and 4.19 g of the title compound is obtained as white solid with a water content of 6.3%.

reactant | 1,4,7-tris-(carboxymethyl)-1,4,7, 10-tetraazacyclododecane | 14.43 mmol, 5 g | C(=O)(O)CN1CCN(CCN(CCNCC1)CC(=O)O)CC(=O)O | C14H26N4O6
reactant | (2-bromoethyl)-tert-butyl ether | 17.35 mmol, 3.14 g | BrCCOC(C)(C)C | C6H13BrO
reactant | potassium carbonate | 6.50 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 10-(4,4-Dimethyl-3-oxa-pentyl)-1,4,7-tris-(carboxymethyl)-1,4,7,10-tetraazacyclododecane | 4.19 g | CC(OCCN1CCN(CCN(CCN(CC1)CC(=O)O)CC(=O)O)CC(=O)O)(C)C | C20H38N4O7
